### PR TITLE
feat(Topology/Baire/BaireMeasurable): add the Kuratowski-Ulam theorem

### PR DESCRIPTION
**Pull request by Felix-Weilacher**
Add the Kuratowski-Ulam theorem, which one can think of as a "Fubini" for Baire category. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/GDelta.lean [hunk 1]
```diff
@@ -266,6 +266,17 @@ lemma isMeagre_iUnion {s : ℕ → Set X} (hs : ∀ n, IsMeagre (s n)) : IsMeagr
   rw [IsMeagre, compl_iUnion]
   exact countable_iInter_mem.mpr hs
 
+theorem isMeagre_sUnion {S : Set (Set X)} (hct : S.Countable)
```
Comment (urkud) [inline Mathlib/Topology/GDelta.lean:269]:
```suggestion
protected theorem IsMeagre.sUnion {S : Set (Set X)} (hct : S.Countable)
```

File: Mathlib/Topology/Baire/BaireMeasurable.lean [hunk 2]
```diff
@@ -179,3 +179,148 @@ theorem Homeomorph.residual_map_eq (h : α ≃ₜ β) : (residual α).map h = re
...
+
+theorem IsMeagre.prod_right (ht : IsMeagre t) (s : Set α) : IsMeagre (s ×ˢ t) := by
+  convert (ht.prod_left s).preimage_of_isOpenMap continuous_swap isOpenMap_swap
+  exact (preimage_swap_prod _ _).symm
+
+variable {s : Set (α × β)}
+
+/-- If a set `s` is Baire measurable in a product space, residually-many sections are
+Baire measurable. -/
+theorem BaireMeasurableSet.baireMeasurableSet_curry_left [SecondCountableTopology β]
```
Comment (urkud) [inline Mathlib/Topology/Baire/BaireMeasurable.lean:259]: Start `namespace BaireMeasurableSet` here?

File: Mathlib/Topology/Baire/BaireMeasurable.lean [hunk 3]
```diff
@@ -179,3 +179,148 @@ theorem Homeomorph.residual_map_eq (h : α ≃ₜ β) : (residual α).map h = re
...
+theorem eventually_eventually_right_of_mem_residual [SecondCountableTopology α]
+    (hs : s ∈ residual (α × β)) : ∀ᵇ y : β, ∀ᵇ x : α, (x, y) ∈ s :=
+  eventually_eventually_left_of_mem_residual
+    (tendsto_residual_of_isOpenMap continuous_swap isOpenMap_swap hs)
+
+variable {s : Set α} {t : Set β}
+
+theorem mem_residual_prod (hs : s ∈ residual _) (ht : t ∈ residual _) : s ×ˢ t ∈ residual _ :=
+  inter_mem (tendsto_residual_of_isOpenMap continuous_fst isOpenMap_fst hs)
+            (tendsto_residual_of_isOpenMap  continuous_snd isOpenMap_snd ht)
```
Comment (urkud) [inline Mathlib/Topology/Baire/BaireMeasurable.lean:244]:
```suggestion
            (tendsto_residual_of_isOpenMap continuous_snd isOpenMap_snd ht)
```

File: Mathlib/Topology/Baire/BaireMeasurable.lean [hunk 4]
```diff
@@ -179,3 +179,148 @@ theorem Homeomorph.residual_map_eq (h : α ≃ₜ β) : (residual α).map h = re
...
+
+theorem IsMeagre.prod_left (hs : IsMeagre s) (t : Set β) : IsMeagre (s ×ˢ t) := by
+  apply mem_of_superset <| mem_residual_prod hs univ_mem
+  rintro x ⟨_, -⟩ ⟨_, -⟩
+  contradiction
+
+theorem IsMeagre.prod_right (ht : IsMeagre t) (s : Set α) : IsMeagre (s ×ˢ t) := by
+  convert (ht.prod_left s).preimage_of_isOpenMap continuous_swap isOpenMap_swap
+  exact (preimage_swap_prod _ _).symm
```
[the remark this answers is not in the document]
Comment (Felix-Weilacher) [reply Mathlib/Topology/Baire/BaireMeasurable.lean:253]: In my opinion they should not. These are quite close to the Kuratowski-Ulam theorem.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
